US03997535
b. 3,4-Dihydro-6-methoxy-4-methyl-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester
3,4-Dihydro-6-methoxy-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester (1.9 g), methyl iodide (2 ml) and anhydrous potassium carbonate (6 g) in 2-butanone (100 ml) were stirred and heated under reflux for 1.5 hours. The solid was filtered off and the filtrate was evaporated. The residue was crystallised from aqueous methanol, m.p. 166° (80%).

reactant | 3,4-Dihydro-6-methoxy-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | 1.9 g | COC=1C=C2NC(C(=NC2=CC1)C(=O)OCC)=O | C12H12N2O4
reactant | methyl iodide | 2 ml | CI | CH3I
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | 3,4-Dihydro-6-methoxy-4-methyl-3-oxo-2-quinoxalinecarboxylic acid, ethyl ester | COC=1C=C2N(C(C(=NC2=CC1)C(=O)OCC)=O)C | C13H14N2O4
